US08138340B2
4-Methyl-5-trifluoromethyl-isoxazol-3-ol
4,4,4-Trifluoro-N-hydroxy-2-methyl-3-oxobutyramide (500 mg, 2.70 mmol) was dissolved in aq. 90% H2SO4 (5.5 mL). The mixture was heated to 75° C. for 90 min, and then allowed to cool to rt. Water (15 mL) was added, and the mixture was extracted with Et2O (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification by FC (EtOAc/heptane/AcOH 20:80:1→25:75:1→33:66:1) yielded the title compound (197 mg, 44%). TLC: Rf=0.43 (EtOAc/heptane 1:1+1% AcOH).

reactant | 4,4,4-Trifluoro-N-hydroxy-2-methyl-3-oxobutyramide | 2.70 mmol, 500 mg | FC(C(C(C(=O)NO)C)=O)(F)F | C5H6F3NO3
reactant | Water | 15 mL | O | H2O
solvent | H2SO4 | 5.5 mL | OS(=O)(=O)O | H2O4S
product | 4-Methyl-5-trifluoromethyl-isoxazol-3-ol | 197 mg, 44% | CC=1C(=NOC1C(F)(F)F)O | C5H4F3NO2
